US06451734B1
4-Chloro-3-(2,3-dichloro-5-nitrobenzyl)-5-difluoromethoxy-1-methyl-3H-pyrazole (No. Ib.3)
At −10° C., 6.6 g (19 mmol) of 4-chloro-3-(2,3-dichlorobenzyl)-5-difluoromethoxy-methyl-1H-pyrazole were dissolved in 100 ml of nitric acid. After 30 minutes, the mixture was warmed to 0—5° C. and 200 g of ice were added. The product of value was then extracted with dichloromethane. The organic phase was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate and finally concentrated. The product of value was purified by MPLC over silica gel (eluent: cyclohexane/ethyl acetate=4:1).

reactant | 4-chloro-3-(2,3-dichlorobenzyl)-5-difluoromethoxy-methyl-1H-pyrazole | 19 mmol, 6.6 g | ClC=1C(=NN(C1OC(F)F)C)CC1=C(C(=CC=C1)Cl)Cl | C12H9Cl3F2N2O
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 4-Chloro-3-(2,3-dichloro-5-nitrobenzyl)-5-difluoromethoxy-1-methyl-3H-pyrazole | ClC=1C(NN(C1OC(F)F)C)CC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)Cl | C12H10Cl3F2N3O3
